US08212041B2
4-((6-(6-Fluoropyridin-3-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (0.121 g, 0.30 mmol) was suspended in dioxane (1 mL) then added 3M aqueous hydrochloric acid (2.0 ml, 6.0 mmol). The reaction mixture was then heated at 100° C. for 1 hour. The mixture was concentrated under vacuum and the remaining solid was dissolved in methanol (4 mL) then added triethylamine (0.42 ml, 3.0 mmol). The mixture was stirred at room temperature for 1 hour then concentrated under vacuum. The sample was purified by flash chromatography eluting with 15% 7N NH3 in methanol/dichloromethane to afford 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)pyridin-2(1H)-one as a pale orange solid.

reactant | 4-((6-(6-Fluoropyridin-3-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 0.30 mmol, 0.121 g | FC1=CC=C(C=N1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C21H15FN6O2
reactant | hydrochloric acid | 6.0 mmol, 3M, 2.0 ml | Cl | ClH
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C=2C=CC(NC2)=O | C21H16N6O3
